US07282501B2
3-[2-(benzoylamino-methyl)-4-hydroxy-phenyl]propionic acid tert-butyl ester
A slurry of 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester (0.36 g, 1.43 mmol) in CH2Cl2 (10 mL) was cooled in an ice-water bath and treated with triethyl amine (0.40 mL, 0.28 mmol) then dropwise with benzoyl chloride (0.18 mL, 1.55 mmol). The resulting solution was stirred 30 min, and the cooling bath was removed. After 30 min, the solution was concentrated, and the residue was partitioned between EtOAc (50 mL) and 1N HCl (10 mL). The organic layer was washed with brine (10 mL), dried (Na2SO4), and concentrated to a solid. The crude mixture was purified by radial chromatography (hexanes:EtOAc 3:1 to 2:1) to give the title compound as a white solid (325 mg, 64%): 1H NMR (400 MHz, CDCl3) 1.26 (s, 9H), 2.54 (t, J=7.1 Hz, 2H), 2.81 (t, J=6.8 Hz, 2H), 4.55 (d, J=2H), 6.68 (dd, J=8.3, 2.4 Hz, 1H), 6.86 (d, J=2.9 Hz, 1H), 6.96 (d, J=8.3 Hz, 1H), 7.25-7.29 (m, 2H), 7.34-7.37 (m, 1H), 7.49 (br s, 1H), 7.16-7.79 (m, 2H); MS (ES) m/z 356.2 (M+H).

reactant | 3-(2-aminomethyl-4-hydroxy-phenyl)-propionic acid tert-butyl ester | 1.43 mmol, 0.36 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN)=O | C14H21NO3
reactant | triethyl amine | 0.28 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.55 mmol, 0.18 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(benzoylamino-methyl)-4-hydroxy-phenyl]propionic acid tert-butyl ester | 325 mg, 64% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(C1=CC=CC=C1)=O)=O | C21H25NO4
